US05883049
To an tetrahydrofuran (5 mL) solution of 2-(5-amino-4-chloro-2-fluorophenyl)-5,6-dihydroimidazo [1,5-a] pyridine-1,3[2H, 7H]-dione (0.50 g, 1.69 mmol) were dropwise added acetic anhydride (0.18 mL, 1.86 mmol) and pyridine (8 drops) with stirring at room temperature. The reaction mixture was stirred for 8 hours at room temperature and further stirred for 13 hours at 80° C. 1N Hydrochloric acid (20 mL) and ethyl acetate (20 mL) were added to the resulting mixture, and the organic layer was separated and the aqueous layer was extracted with ethyl acetate (20 mL×2 times). The organic layer combined was washed with saturated sodium chloride solution (30 mL) and dried over anhydrous magnesium sulfate. After removal of magnesium sulfate by filtration, the filtrate was evaporated to give crude product, which was purified by silica gel column (Wakogel C-200, ethyl acetate/hexane =1/1) to obtain a white solid of 2-(5-acetylamino-4-chloro-2-fluorophenyl)-5,6-dihydroimidazo [1,5-a] pyridine-1,3[2H, 7H]-dione (0.34 g, yield:59.6%).

reactant | tetrahydrofuran | 5 mL | O1CCCC1 | C4H8O
reactant | 2-(5-amino-4-chloro-2-fluorophenyl)-5,6-dihydroimidazo [1,5-a] pyridine-1,3[2H, 7H]-dione | 1.69 mmol, 0.50 g | NC=1C(=CC(=C(C1)N1C(N2C(=CCCC2)C1=O)=O)F)Cl | C13H11ClFN3O2
reactant | acetic anhydride | 1.86 mmol, 0.18 mL | C(C)(=O)OC(C)=O | C4H6O3
reactant | Hydrochloric acid | 1N, 20 mL | Cl | ClH
catalyst | pyridine | 8 drops | N1=CC=CC=C1 | C5H5N
solvent | ethyl acetate | 20 mL | C(C)(=O)OCC | C4H8O2
product | 2-(5-acetylamino-4-chloro-2-fluorophenyl)-5,6-dihydroimidazo [1,5-a] pyridine-1,3[2H, 7H]-dione | 0.34 g, yield:59.6% | C(C)(=O)NC=1C(=CC(=C(C1)N1C(N2C(=CCCC2)C1=O)=O)F)Cl | C15H13ClFN3O3
